US07838522B2
To a mixture of methyl-5-bromonicotinate (10 g, 0.045 mol) and morpholine (4.6 g, 0.054 mol) in dry toluene (100 mL) was added fused CsCO3 (30 g, 0.09 mol) with stirring under argon. To this mixture was added BINAP (0.45 g, 0.0005 mol), Pd2(dba)3 (0.22 g, 0.00015 mol) and then the reaction mixture was refluxed at 110° C. for 50 h. The reaction mixture was cooled down to r.t. and diluted with diethyl ether (400 ml) and filtered through celite. The filtrate was concentrated under vacuum and purified by flash column chromatography (CHCl3/MeOH, 4:1) to give 4.2 g (41%) of methyl 5-morpholin-4-ylnicotinate as a liquid. TLC—Chloroform/Methanol (8/2): Rf=0.7.

reactant | methyl-5-bromonicotinate | 0.045 mol, 10 g | COC(C1=CN=CC(=C1)Br)=O | C7H6BrNO2
reactant | morpholine | 0.054 mol, 4.6 g | N1CCOCC1 | C4H9NO
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 400 ml | C(C)OCC | C4H10O
catalyst | Pd2(dba)3 | 0.00015 mol, 0.22 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | BINAP | 0.0005 mol, 0.45 g | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | methyl 5-morpholin-4-ylnicotinate | 4.2 g, 41% | N1(CCOCC1)C=1C=NC=C(C(=O)OC)C1 | C11H14N2O3
